US07153878B2
A mixture of 2-(4-tert-Butyl-benzoylamino)-propionic acid methyl ester (26.3 g, 95.6 mmol), 200 mL 1M sodium hydroxide, and 100 mL tetrahydrofuran is stirred at room temperature 20 hr. The resulting clear solution is cooled on an ice/water bath and the pH is adjusted to 2 with concentrated hydrochloric acid. The product is extracted with three 250 mL portions of ethyl acetate. The combined extracts are washed with 100 mL each of water and brine, dried over anhydrous magnesium sulfate, filtered, and concentrated to afford 2-(4-tert-Butyl-benzoylamino)-propionic acid as a white solid, 24.6 g, 95%. MS M++1 260.

reactant | 2-(4-tert-Butyl-benzoylamino)-propionic acid methyl ester | 95.6 mmol, 26.3 g | COC(C(C)NC(C1=CC=C(C=C1)C(C)(C)C)=O)=O | C15H21NO3
reactant | sodium hydroxide | 1M, 200 mL | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 2-(4-tert-Butyl-benzoylamino)-propionic acid | C(C)(C)(C)C1=CC=C(C(=O)NC(C(=O)O)C)C=C1 | C14H19NO3
